US05032598
To a suspension of 9.56 g (0.05 mol) of 7-nitro-1-tetralone in 250 mL of ether was added bromine dropwise. The progress of the reaction was followed by thin layer chromatography (fl. silica gel/CH2Cl2). When all of the starting material had been consumed, the mixture was concentrated and cyclohexane was added. The white solid was removed by filtration to afford 2.25 g of 2-bromo-7-nitrotetralone, mp 94°-96° C.

reactant | 7-nitro-1-tetralone | 0.05 mol, 9.56 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | bromine | BrBr | Br2
solvent | ether | 250 mL | CCOCC | C4H10O
product | 2-bromo-7-nitrotetralone | 2.25 g | BrC1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])=O | C10H8BrNO3
